* Modified IEEE 14 Bus Test Case.  Introduced Phase shifts in the 
* transformer models, as a unit test of those devices.  

*********************************************
* Simulation control statements             *
*********************************************
.DC V1VM 1.06 1.06 1

*********************************************
* Bus 1 is the slack bus.  Ammeter is       *
* wired so that current flows into Bus 1.   *
* Note that slack bus has VM=1.06, per IEEE *
* test case.                                *
*********************************************
V1Th Bus1Th ammBus1P 0V
V1VM Bus1VM ammBus1Q 1.06V
Vamm1P 0 ammBus1P 0V
Vamm1Q 0 ammBus1Q 0V

*********************************************
* Branch Definitions                        *
*********************************************
YPowerGridBranch pg1_2 bus1Th bus2Th bus1VM bus2VM AT=PQP R=0.01938 X=0.05917 B=0.0528
YPowerGridBranch pg1_5 bus1Th bus5Th bus1VM bus5VM AT=PQP R=0.05403 X=0.22304 B=0.0492
YPowerGridBranch pg2_3 bus2Th bus3Th bus2VM bus3VM AT=PQP R=0.04699 X=0.19797 B=0.0438
YPowerGridBranch pg2_4 bus2Th bus4Th bus2VM bus4VM AT=PQP R=0.05811 X=0.17632 B=0.034
YPowerGridBranch pg2_5 bus2Th bus5Th bus2VM bus5VM AT=PQP R=0.05695 X=0.17388 B=0.0346
YPowerGridBranch pg3_4 bus3Th bus4Th bus3VM bus4VM AT=PQP R=0.06701 X=0.17103 B=0.0128
YPowerGridBranch pg4_5 bus4Th bus5Th bus4VM bus5VM AT=PQP R=0.01335 X=0.04211 B=0
YPowerGridBranch pg6_11 bus6Th bus11Th bus6VM bus11VM AT=PQP R=0.09498 X=0.1989 B=0
YPowerGridBranch pg6_12 bus6Th bus12Th bus6VM bus12VM AT=PQP R=0.12291 X=0.25581 B=0
YPowerGridBranch pg6_13 bus6Th bus13Th bus6VM bus13VM AT=PQP R=0.06615 X=0.13027 B=0
YPowerGridBranch pg7_8 bus7Th bus8Th bus7VM bus8VM AT=PQP R=0 X=0.17615 B=0
YPowerGridBranch pg7_9 bus7Th bus9Th bus7VM bus9VM AT=PQP R=0 X=0.11001 B=0
YPowerGridBranch pg9_10 bus9Th bus10Th bus9VM bus10VM AT=PQP R=0.03181 X=0.0845 B=0
YPowerGridBranch pg9_14 bus9Th bus14Th bus9VM bus14VM AT=PQP R=0.12711 X=0.27038 B=0
YPowerGridBranch pg10_11 bus10Th bus11Th bus10VM bus11VM AT=PQP R=0.08205 X=0.19207 B=0
YPowerGridBranch pg12_13 bus12Th bus13Th bus12VM bus13VM AT=PQP R=0.22092 X=0.19988 B=0
YPowerGridBranch pg13_14 bus13Th bus14Th bus13VM bus14VM AT=PQP R=0.17093 X=0.34802 B=0

******************************************************
* Transformer Definitions.  All three definitions    *
* are changed from the IEEE 14-bus test case, which  *
* is the regression test IEEE_14Bus_PQPFormat.cir    *
* Change some of the transformers to tap-changing    *
* ones (type 2 and type 3)                           *
******************************************************
*YPGTR pg4_7 bus4Th bus7Th bus4VM bus7VM AT=PQP R=0 X=0.20912 TR=0.978 PS={5*PI/180}
YPGTR pg4_7 bus4Th bus7Th bus4VM bus7VM N47 AT=PQP TT=VT R=0 X=0.20912 PS={5*PI/180}
VN47 N47 0 0.978
YPGTR pg4_9 bus4Th bus9Th bus4VM bus9VM AT=PQP R=0 X=0.55618 TR=1.05
*YPGTR pg5_6 bus5Th bus6Th bus5VM bus6VM AT=PQP R=0 X=0.25202 TR=0.932 PS={-5*PI/180}
YPGTR pg5_6 bus5Th bus6Th bus5VM bus6VM Phi56 AT=PQP TT=PS R=0 X=0.25202 TR=0.932
VPhi56 Phi56 0 {-5*PI/180}

*********************************************
* Bus Shunt Definitions                     *
*********************************************
YPowerGridBusShunt pg9_GND bus9Th 0 bus9VM 0 AT=PQP G=0 B=0.19

***************************************************
* PV Bus Definitions.                             *
* Terminals are reversed on IGen, and ammeters    *
* are wired, so that current (P,Q) flows into bus *
***************************************************
IGen2P ammBus2P bus2Th 0.4
Vamm2P 0 ammBus2P 0V
VGen2VM bus2VM ammBus2Q 1.045
Vamm2Q 0 ammBus2Q 0V

IGen3P ammBus3P bus3Th 0
Vamm3P 0 ammBus3P 0V
VGen3VM bus3VM ammBus3Q 1.01
Vamm3Q 0 ammBus3Q 0V

IGen6P ammBus6P bus6Th 0
Vamm6P 0 ammBus6P 0V
VGen6VM bus6VM ammBus6Q 1.07
Vamm6Q 0 ammBus6Q 0V

IGen8P ammBus8P bus8Th 0
Vamm8P 0 ammBus8P 0V
VGen8VM bus8VM ammBus8Q 1.09
Vamm8Q 0 ammBus8Q 0V

*********************************************
* Load Definitions                          *
*********************************************
ILoad2P bus2Th 0 0.217
ILoad2Q bus2VM 0 0.127
ILoad3P bus3Th 0 0.942
ILoad3Q bus3VM 0 0.19
ILoad4P bus4Th 0 0.478
ILoad4Q bus4VM 0 -0.039
ILoad5P bus5Th 0 0.076
ILoad5Q bus5VM 0 0.016
ILoad6P bus6Th 0 0.112
ILoad6Q bus6VM 0 0.075
ILoad7P bus7Th 0 0
ILoad7Q bus7VM 0 0
ILoad9P bus9Th 0 0.295
ILoad9Q bus9VM 0 0.166
ILoad10P bus10Th 0 0.09
ILoad10Q bus10VM 0 0.058
ILoad11P bus11Th 0 0.035
ILoad11Q bus11VM 0 0.018
ILoad12P bus12Th 0 0.061
ILoad12Q bus12VM 0 0.016
ILoad13P bus13Th 0 0.135
ILoad13Q bus13VM 0 0.058
ILoad14P bus14Th 0 0.149
ILoad14Q bus14VM 0 0.05

*************************************************************
* .NODESET used to enforce "flat start" for PQ formulations *
*************************************************************
.NODESET V(bus1Th)=0 V(bus1VM)=1 V(bus2Th)=0 V(bus2VM)=1 V(bus3Th)=0 V(bus3VM)=1
+ V(bus4Th)=0 V(bus4VM)=1 V(bus5Th)=0 V(bus5VM)=1 V(bus6Th)=0 V(bus6VM)=1
+ V(bus7Th)=0 V(bus7VM)=1 V(bus8Th)=0 V(bus8VM)=1 V(bus9Th)=0 V(bus9VM)=1
+ V(bus10Th)=0 V(bus10VM)=1 V(bus11Th)=0 V(bus11VM)=1 V(bus12Th)=0 V(bus12VM)=1
+ V(bus13Th)=0 V(bus13VM)=1 V(bus14Th)=0 V(bus14VM)=1 
+ V(N47)=1 V(Phi56)=0

*********************************************
* Output Statements                         *
*********************************************
.PRINT DC width=10 precision=6
+ V(bus1Th) V(bus1VM) V(bus2Th) V(bus2VM) V(bus3Th) V(bus3VM) V(bus4Th) V(bus4VM)
+ V(bus5Th) V(bus5VM) V(bus6Th) V(bus6VM) V(bus7Th) V(bus7VM) V(bus8Th) V(bus8VM)
+ V(bus9Th) V(bus9VM) V(bus10Th) V(bus10VM) V(bus11Th) V(bus11VM) V(bus12Th) V(bus12VM)
+ V(bus13Th) V(bus13VM) V(bus14Th) V(bus14VM) 
+ I(Vamm1P) I(Vamm1Q) I(Vamm2P) I(Vamm2Q) I(Vamm3P) I(Vamm3Q) 
+ I(ILoad4P) I(ILoad4Q) I(ILoad5P) I(ILoad5Q) I(Vamm6P) I(Vamm6Q) 
+ I(ILoad7P) I(ILoad7Q) I(Vamm8P) I(Vamm8Q) I(ILoad9P) I(ILoad9Q) 
+ I(ILoad10P) I(ILoad10Q) I(ILoad11P) I(ILoad11Q) I(ILoad12P) I(ILoad12Q) 
+ I(ILoad13P) I(ILoad13Q) I(ILoad14P) I(ILoad14Q) 

.end
